US08193356B2
To a suspension of 3-(2-chlorophenylacetyl)-4-hydroxy-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one (687 mg, 1.5 mmol) produced in Synthesis Example 35 in DMF (6 mL) was added hydrazine monohydrate (purity of 80%, 240 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, washed with water, and dried to give 3-(2-chlorobenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one as a form of crystal (632 mg, yield 93%).

reactant | 3-(2-chlorophenylacetyl)-4-hydroxy-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one | 1.5 mmol, 687 mg | ClC1=C(C=CC=C1)CC(=O)C=1C(N(C2=NC=CC=C2C1O)C1=CC(=CC=C1)C(F)(F)F)=O | C23H14ClF3N2O3
reactant | hydrazine monohydrate | 240 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-(2-chlorobenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one | ClC1=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC(=CC=C3)C(F)(F)F)=O)C=CC=C1 | C23H14ClF3N4O
